US05380867
A solution of L-lysine hydrochloride (0.36973 mole, 67.532 g) in water (68 g) [from stream 36a in Example 9 and stream 36b in Example 11] is added to the top of a column of Amberlyte IRA-400(OH) ion exchange resin (254.54 g, 0.4073 equivalents) prewashed with water. The column is subsequently eluted with water (742 g) to provide an aqueous solution of free L-lysine from which water is partially evaporated at 60° C. and 20 mm HgA pressure. The resulting evaporation residue [stream 5a] contains free L-lysine (0.36973 moles, 54.05 g) and water (54 g) for recycle to first crop crystallization (Example 2).

reactant | L-lysine hydrochloride | 0.36973 mole, 67.532 g | Cl.N[C@@H](CCCCN)C(=O)O
solvent | water | 68 g | O | H2O
product | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
